US07439242B2
This example illustrates the preparation of 4-(3-chloro-5-pyridyloxy)-3-(4-methoxybenzenesulfonamido)benzotrifluoride
Using the method of Example 17.4, 4-(3-chloro-5-pyridyloxy)-3-aminobenzotrifluoride (0.41 g) and 4-methoxybenzenesulfonyl chloride ((0.30 g ) were combined to provide the title compound (0.236 g) as a crystalline solid following flash chromatography and trituration with ether.

reactant | 4-(3-chloro-5-pyridyloxy)-3-aminobenzotrifluoride | 0.41 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)N | C12H8ClF3N2O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | ether | CCOCC | C4H10O
product | 4-(3-chloro-5-pyridyloxy)-3-(4-methoxybenzenesulfonamido)benzotrifluoride | 0.236 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)OC | C19H14ClF3N2O4S
